US08633319B2
Preparation of 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate
(1S,2R,5S)-5-Methyl-2-(1-methylethyl)cyclohexyl (3S)-3-fluoro-2-oxo-3-piperidinecarboxylate (1 eq, 1 wt) is suspended in anhydrous THF (6 vol) and treated with borane dimethyl sulfide complex (6 eq, 1.9 vol). The resulting solution is stirred at 63-66° C. for 40-46 h. The reaction mixture is cooled to 0±5° C. and slowly added to cold (0±5° C.) methanol (3 vol) over 30-90 min, maintaining the internal temperature below 15° C. Vigorous gas evolution and foaming is observed. 2M Hydrochloric acid (4 vol) is added over 10-15 min, maintaining the internal temperature below 15° C. The mixture is stirred at reflux (60-65° C.) for 30-90 min then cooled to 20-25° C. Toluene (4 vol) is added, the mixture stirred for 15 min then filtered. The filtrate is separated and the lower acidic aqueous phase run off. The filter cake is washed with 2M hydrochloric acid (2 vol) and the wash used for a second extraction of the toluene phase. The lower acidic aqueous phase is run off, combined with the first acidic aqueous and cooled to 5±5° C. The solution is treated with sodium hydroxide (5 eq, 0.668 wt) and stirred at 10-20° C. until the solid dissolved. A solution of di-tert-butyl-dicarbonate (1.1 eq, 0.802 wt) in dichloromethane (2 vol) is added and rinsed in with more dichloromethane (2 vol). The two-phase mixture is stirred vigorously for 15 h, filtered and the filter cake washed with dichloromethane (2 vol). The lower organic phase is run off. The filter cake is washed with dichloromethane (2 vol) and this wash used to extract the aqueous phase. The dichloromethane extracts are washed with water (4 vol) and concentrated in vacuo. The residual oil is dried on the Buchi at 40° C. Heptane (4 vol) is added and the mixture concentrated in vacuo. Towards the end of the evaporation the mixture is seeded with the title compound (0.001 wt), the resultant slurry concentrated to a small volume and diluted with heptane (4 vol). The slurry is rotated on Buchi at 40° C. for 20-36 min, cooled and rotated at 20±5° C. for 1 h. The solid is collected under suction, washed with heptane (2×1 vol) and dried in vacuo at 35±5° C.

reactant | (1S,2R,5S)-5-Methyl-2-(1-methylethyl)cyclohexyl (3S)-3-fluoro-2-oxo-3-piperidinecarboxylate | 1 eq | F[C@@]1(C(NCCC1)=O)C(=O)O[C@@H]1[C@H](CC[C@@H](C1)C)C(C)C | C16H26FNO3
reactant | Hydrochloric acid | 2M | Cl | ClH
reactant | sodium hydroxide | 5 eq | [OH-].[Na+]
reactant | di-tert-butyl-dicarbonate | 1.1 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)CO | C11H20FNO3
